US03946022
A mixture of 15 g (0.033 mole) of 4'-fluoro-5-[4-(α-hydroxy-α-phenylbenzyl)piperidino]valerophenone hydrochloride and 15 g of hydroxylamine hydrochloride in 120 ml of pyridine is stirred on a steam bath for about 4 hours then cooled to room temperature. The pyridine is removed at reduced pressure on a steam bath, and the residue is triturated with a dilute sodium hydroxide solution and extracted with chloroform. The chloroform extract is washed with water, dried over magnesium sulfate, filtered and concentrated to a residue which is triturated with hexane. The resulting solid is filtered off and recrystallized from ethanol to give 4'-fluoro-5-[4-(α-hydroxy-α-phenylbenzyl)piperidino]valerophenone oxime.

reactant | 4'-fluoro-5-[4-(α-hydroxy-α-phenylbenzyl)piperidino]valerophenone hydrochloride | 0.033 mole, 15 g | Cl.FC1=CC=C(C=C1)C(CCCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O
reactant | hydroxylamine hydrochloride | 15 g | Cl.NO
solvent | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
product | 4'-fluoro-5-[4-(α-hydroxy-α-phenylbenzyl)piperidino]valerophenone oxime | FC1=CC=C(C=C1)C(CCCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=NO | C29H33FN2O2
